US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1 (b), from 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)thiazolidin-4-ol hydrobromide. Colorless crystals; melting point 264° C. (from glacial acetic acid).

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)thiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=C(C=C(C=C1)C)C)C)O)S(N(C)C)(=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=C(C=C1)C)C)C)S(N(C)C)(=O)=O | InChI=1S/C20H22ClN3O2S2.BrH/c1-13-6-9-17(14(2)10-13)22-20-24(5)18(12-27-20)15-7-8-16(21)19(11-15)28(25,26)23(3)4;/h6-12H,1-5H3;1H
